US04540699
2-Nitroamino-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (2.08 g) and 2-(2-dimethylaminomethyl-5-furylmethylthio)ethylamine (1.82 g) were refluxed in ethanol (10 ml) for 22 hours. The reaction mixture was evaporated under reduced pressure to afford an oil which on trituration with diethyl ether gave a solid. This solid was collected by filtration, washed with diethyl ether and recrystallised from isopropanol to yield 2-[2-(2-dimethylaminomethyl-5-furylmethylthio)ethylamino]-5-(1-methyl- 2-oxopyridin-4-ylmethyl)pyrimidin-4-one (1.41 g); recrystallisation from isopropanol afforded material with m.p. 129°-132° C.

reactant | 2-Nitroamino-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 2.08 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)C)=O | C11H11N5O4
reactant | 2-(2-dimethylaminomethyl-5-furylmethylthio)ethylamine | 1.82 g | CN(C)CC=1OC(=CC1)CSCCN | C10H18N2OS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[2-(2-dimethylaminomethyl-5-furylmethylthio)ethylamino]-5-(1-methyl- 2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 1.41 g | CN(C)CC=1OC(=CC1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)C)=O | C21H27N5O3S
